US08461163B2
Methyl 4-(7-chloro-2-(trifluoromethyl)pyrazolo[1,5-a]pyrimidin-5-ylcarbamoyl)benzoate (218)
7-chloro-2-(trifluoromethyl)pyrazolo[1,5-a]pyrimidin-5-amine (0.5 g, 1.0 equivalent) was suspended in pyridine (0.2 M) in a round bottom flask. At 0° C. was added a solution of terephthalic acid monomethylester chloride (2.0 equivalents) pre-dissolved in pyridine (0.8M), and followed by addition of N,N-dimethylpyridin-4-amine (0.1 equivalent). The mixture was stirred vigorously at 0° C. for 48 h. The reaction was quenched with saturated NaHCO3; pyridine was removed in vacuo and the residue was extracted with EtOAc twice and the combined organic layers were dried over Na2SO4. The organic layers were concentrated in vacuo and the crude mixture was purified using chromatography (SiO2, gradient of 10 to 50% EtOAc/hexanes) to afford the titled compound (10%) as a solid. Melting point (191.0-195.0° C.). 1H NMR (400 MHz, DMSO-d6) δ ppm 3.90 (s, 3 H) 7.20 (s, 1 H) 8.06-8.11 (m, 2 H) 8.12-8.18 (m, 2 H) 8.32 (s, 1 H) 11.88 (s, 1 H); ESI-MS: m/z 399.0 (M+H)+.

reactant | 7-chloro-2-(trifluoromethyl)pyrazolo[1,5-a]pyrimidin-5-amine | 0.5 g, 1.0 equivalent | ClC1=CC(=NC=2N1N=C(C2)C(F)(F)F)N | C7H4ClF3N4
reactant | terephthalic acid monomethylester chloride | 2.0 equivalents | [Cl-].COC(C1=CC=C(C(=O)O)C=C1)=O
solvent | pyridine | 0.2 M | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 0.8M | N1=CC=CC=C1 | C5H5N
catalyst | N,N-dimethylpyridin-4-amine | 0.1 equivalent | CN(C1=CC=NC=C1)C | C7H10N2
product | Methyl 4-(7-chloro-2-(trifluoromethyl)pyrazolo[1,5-a]pyrimidin-5-ylcarbamoyl)benzoate | 10% | ClC1=CC(=NC=2N1N=C(C2)C(F)(F)F)NC(=O)C2=CC=C(C(=O)OC)C=C2 | C16H10ClF3N4O3
